US09315458B2
F) rac-6-((6-(1,3-dimethyl-1H-pyrazol-4-yl)pyridin-3-yl)methyl)-2-(trans-2-hydroxycyclohexyl)-5-methylisoindolin-1-one
A solution of methyl 5-((6-(1,3-dimethyl-1H-pyrazol-4-yl)pyridin-3-yl)methyl)-2-formyl-4-methylbenzoate (0.09 g), trans-2-aminocyclohexanol hydrochloride (0.04 g), triethylamine (0.04 mL) and anhydrous magnesium sulfate (0.06 g) in THF (2.00 mL) was stirred at room temperature for 1.5 hr. The insoluble substance was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was diluted with methanol (2.00 mL) and THF (2.00 mL), sodium triacetoxyborohydride (0.11 g) was added thereto, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.05 g).

reactant | methyl 5-((6-(1,3-dimethyl-1H-pyrazol-4-yl)pyridin-3-yl)methyl)-2-formyl-4-methylbenzoate | 0.09 g | CN1N=C(C(=C1)C1=CC=C(C=N1)CC=1C(=CC(=C(C(=O)OC)C1)C=O)C)C | C21H21N3O3
reactant | trans-2-aminocyclohexanol hydrochloride | 0.04 g | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | triethylamine | 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | 0.06 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
product | rac-6-((6-(1,3-dimethyl-1H-pyrazol-4-yl)pyridin-3-yl)methyl)-2-(trans-2-hydroxycyclohexyl)-5-methylisoindolin-1-one | 0.05 g | CN1N=C(C(=C1)C1=CC=C(C=N1)CC1=C(C=C2CN(C(C2=C1)=O)[C@H]1[C@@H](CCCC1)O)C)C | C26H30N4O2
